US09062092B2
Compound 25c: (R)-1-(7-Bromo-quinolin-2-yl)-ethanol
Dichloro (p-cymene) ruthenium(II) dimer (61 mg, 0.100 mmol) and (1R,2R)-(−)—N-p-tosyl-1,2-diphenylethylenediamine (88 mg, 0.012 mmol) was suspended in degassed water (40 mL) and the mixture was degassed with nitrogen for 5 min. The mixture was stirred at 70° C. under nitrogen for 90 min. The resulting turbid orange mixture was allowed to cool to room temperature. 1-(7-Bromo-quinolin-2-yl)-ethanone (5.00 g, 20 mmol) in degassed tetrahydrofuran (40 mL) was added followed by sodium formate (6.8 g, 100 mmol) and the reaction mixture was degassed with nitrogen for 5 min. The reaction mixture was vigorously stirred at 40° C. for 4 h and allowed to cool. It was then diluted with ethyl acetate and water and the organic layer was separated, washed with water and brine, dried over sodium sulfate, filtered and evaporated. The residue was purified by silica gel chromatography using a gradient of 0% to 30% ethyl acetate in iso-hexanes to afford the title compound (4.96 g, 98%) as an off-white solid. 1H NMR (300 MHz, CDCl3) δ 1.59 (d, J=6.7 Hz, 3H), 4.85 (d, J=4.5 Hz, 1H), 5.04-5.07 (m, 1H), 7.40 (d, J=8.5 Hz, 1H), 7.64 (dd, J=8.7, 1.6 Hz, 1H), 7.71 (d, J=8.7 Hz, 1H), 8.15 (d, J=8.5 Hz, 1H), 8.28 (d, J=1.6 Hz, 1H). LCMS (m/z) 252.1/254.1 [M+H], Tr=1.74 min.

reactant | 1-(7-Bromo-quinolin-2-yl)-ethanone | 20 mmol, 5.00 g | BrC1=CC=C2C=CC(=NC2=C1)C(C)=O | C11H8BrNO
reactant | sodium formate | 100 mmol, 6.8 g | C(=O)[O-].[Na+]
solvent | water | 40 mL | O | H2O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
catalyst | Dichloro (p-cymene) ruthenium(II) dimer | 0.100 mmol, 61 mg | CC1=CC=C(C=C1)C(C)C.CC1=CC=C(C=C1)C(C)C.Cl[Ru]Cl.Cl[Ru]Cl
catalyst | (1R,2R)-(−)—N-p-tosyl-1,2-diphenylethylenediamine | 0.012 mmol, 88 mg | CC1=CC=C(C=C1)S(=O)(=O)N[C@H](C2=CC=CC=C2)[C@@H](C3=CC=CC=C3)N | C21H22N2O2S
product | (R)-1-(7-Bromo-quinolin-2-yl)-ethanol | 4.96 g, 98% | BrC1=CC=C2C=CC(=NC2=C1)[C@@H](C)O | C11H10BrNO
